US08247403B2
(1) tert-butyl 9-[(1E)-3-methoxypropa-1-ene-1-yl]-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate
A mixture of tert-butyl 9-bromo-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate (328 mg, 1.00 mmol), trans-2-methoxy-1-propenylboronic acid pinacol ester (198 mg, 1.00 mmol), saturated aqueous sodium carbonate solution (6 ml), and tetrakis(triphenylphosphine)palladium(0) (32.6 mg, 0.0282 mmol) in dimethoxyethane (10 ml) was stirred at 85° C. for 12 hr under a nitrogen atmosphere. The reaction mixture was poured into water, and the mixture was extracted with ethyl acetate. The extract was washed with water, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (hexane:ethyl acetate=1:1) to give the desired product (200 mg, 62.3%) as an oil.

reactant | tert-butyl 9-bromo-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 1.00 mmol, 328 mg | BrC1=CC=CC=2CN(CCOC21)C(=O)OC(C)(C)C | C14H18BrNO3
reactant | sodium carbonate | 6 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | O | H2O
reactant | dimethoxyethane | 10 ml | C(OC)COC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.0282 mmol, 32.6 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-butyl 9-[(1E)-3-methoxypropa-1-ene-1-yl]-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 200 mg, 62.3% | COC/C=C/C1=CC=CC=2CN(CCOC21)C(=O)OC(C)(C)C | C18H25NO4
